US06620828B2
To a solution of 200 mg (0.412 mmol) of 5-[3-(3-methoxymethoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-N2-(3,4,5-trimethoxy-phenyl)-thiazole-2,4-diamine (prepared in Example B(4)) in 8 mL of 50% aqueous dioxane was added trifluoroacetic acid (8 mL) with water bath cooling at 15° C. After 2 hours at room temperature, toluene was added, and the solution was concentrated in vacuo with the water bath at 22° C. With five milliliters of solvent left, the solution was poured into cold aqueous sodium bicarbonate. This solution was extracted with two portions of dichloromethane, which was subsequently washed with brine and dried over sodium sulfate. Radial silica chromatography eluting with 5-10% methanol/dichloromethane gave 3-{5-[4-amino-2-(3,4,5-trimethoxy-phenylamino)-thiazol-5-yl]-[1,2,4]oxadiazol-3-yl}-phenol (60 mg) as a pale-yellow solid.

reactant | 5-[3-(3-methoxymethoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-N2-(3,4,5-trimethoxy-phenyl)-thiazole-2,4-diamine | 0.412 mmol, 200 mg | COCOC=1C=C(C=CC1)C1=NOC(=N1)C1=C(N=C(S1)NC1=CC(=C(C(=C1)OC)OC)OC)N | C22H23N5O6S
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3-{5-[4-amino-2-(3,4,5-trimethoxy-phenylamino)-thiazol-5-yl]-[1,2,4]oxadiazol-3-yl}-phenol | 60 mg | NC=1N=C(SC1C1=NC(=NO1)C=1C=C(C=CC1)O)NC1=CC(=C(C(=C1)OC)OC)OC | C20H19N5O5S
